US04136044
Methyl 4-(p-anilinophenoxy)butyrate prepared by the method of Example 1 was hydrolyzed in a mixture of aqueous potassium carbonate and N,N-dimethylformamide. The reaction mixture was acidified with hydrochloric acid and the solids precipitated thereby were collected and recrystallized from ethanol. The 4-(p-anilinophenoxy)butyric acid thus obtained was a greyish crystalline solid, m.p. 110°-111° C.

reactant | Methyl 4-(p-anilinophenoxy)butyrate | N(C1=CC=CC=C1)C1=CC=C(OCCCC(=O)OC)C=C1 | C17H19NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(p-anilinophenoxy)butyric acid | N(C1=CC=CC=C1)C1=CC=C(OCCCC(=O)O)C=C1 | C16H17NO3
